US04322370
A mixture of 4(4-chlorophenyl)-7-hydroxy-2,2-dimethyl-1-tetralone (17.6 g), epichlorohydrin (30 ml) and potassium carbonate (6.0 g) was heated under reflux in acetone (30 ml) for 24 hr. The hot mixture was filtered and evaporation of the filtrate in vacuo gave 4-(4-chlorphenyl)-7-(2,3-epoxypropoxy)-2,2-dimethyl-1-tetralone as a light yellow gum (8.4 g, 93%).

reactant | 4(4-chlorophenyl)-7-hydroxy-2,2-dimethyl-1-tetralone | 17.6 g | ClC1=CC=C(C=C1)C1CC(C(C2=CC(=CC=C12)O)=O)(C)C | C18H17ClO2
reactant | epichlorohydrin | 30 ml | C(Cl)C1CO1 | C3H5ClO
reactant | potassium carbonate | 6.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 4-(4-chlorphenyl)-7-(2,3-epoxypropoxy)-2,2-dimethyl-1-tetralone | 8.4 g, 93% | ClC1=CC=C(C=C1)C1CC(C(C2=CC(=CC=C12)OCC1CO1)=O)(C)C | C21H21ClO3
